US07737145B2
A solution of methyl 4-[[hexahydro-4-[2-[4-(phenylmethyl)phenoxy]ethyl]-1H-1,4-diazepin-1-yl]methyl]benzoate (55 mg, 0.12 mmol) in methanol (4 mL) was stirred as a solution of aqueous sodium hydroxide (0.60 mL, 2 M) was added. The reaction was stirred for 17 hours at ambient temperature. The reaction was concentrated under reduced pressure. The residue was diluted with water, adjusted to pH 8 with 1 M aqueous hydrochloric acid, and extracted with butanol. The combined organic layers were concentrated under reduced pressure. Flash chromatography gave 46 mg of 4-[[hexahydro-4-[2-[4-(phenylmethyl)phenoxy]ethyl]-1H-1,4-diazepin-1-yl]methyl]benzoic acid; 1H NMR (300 MHz, CD3OD) δ 7.94 (d, 2H), 7.36 (d, 2H), 7.21 (dd, 2H), 7.13 (d, 2H), 7.12 (dd, 1H), 7.07 (d, 2H), 6.82 (d, 2H), 4.08 (t, 2H), 3.82 (s, 2H), 3.75 (s, 2H), 3.05 (t, 2H), 2.99 (m, 4H), 2.81 (m, 2H), 2.80 (m, 2H), 1.88 (m, 2H) ppm.

reactant | methyl 4-[[hexahydro-4-[2-[4-(phenylmethyl)phenoxy]ethyl]-1H-1,4-diazepin-1-yl]methyl]benzoate | 0.12 mmol, 55 mg | C1(=CC=CC=C1)CC1=CC=C(OCCN2CCN(CCC2)CC2=CC=C(C(=O)OC)C=C2)C=C1 | C29H34N2O3
reactant | sodium hydroxide | 2 M, 0.60 mL | [OH-].[Na+]
solvent | methanol | 4 mL | CO | CH4O
product | 4-[[hexahydro-4-[2-[4-(phenylmethyl)phenoxy]ethyl]-1H-1,4-diazepin-1-yl]methyl]benzoic acid | 46 mg | C1(=CC=CC=C1)CC1=CC=C(OCCN2CCN(CCC2)CC2=CC=C(C(=O)O)C=C2)C=C1 | C28H32N2O3
